US06034239
N-[2-(1,2,3,7,8,9-hexahydro-2-oxoindeno[5,4-b][1,4]oxazin-9-yl)ethyl]propionamide
1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (372.0 mg, 1.9 mmol.) and 1-hydroxybenzotriazole monohydrate (257 mg, 1.9 mmol.) were suspended in N,N-dimethylformamide (2.5 mL). To the suspension was added, under ice-cooling, propionic acid (0.11 mL, 1.4 mmol.). This reaction mixture was stirred for one hour at room temperature, and, then, cooled again with ice, to which was added dropwise a solution of 9-(2-aminoethyl)-1,7,8,9-tetrahydroindeno[5,4-b][1,4] oxazin-2(3H)-one (300 mg, 1.3 mmol.) in N,N-dimethylformamide (1.5 mL). The mixture was stirred for one hour under ice-cooling. The reaction mixture was poured into water, and the organic matter was extracted with ethyl acetate. The extract solution was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by means of silica gel column chromatography (chloroform:methanol=10:1) to afford the title compound (yield 253.0 mg, 88%).

reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.9 mmol, 372.0 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 1.9 mmol, 257 mg | O.ON1N=NC2=C1C=CC=C2
reactant | propionic acid | 1.4 mmol, 0.11 mL | C(CC)(=O)O | C3H6O2
reactant | 9-(2-aminoethyl)-1,7,8,9-tetrahydroindeno[5,4-b][1,4] oxazin-2(3H)-one | 1.3 mmol, 300 mg | NCCC1CCC=2C=CC=3OCC(NC3C12)=O | C13H16N2O2
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[2-(1,2,3,7,8,9-hexahydro-2-oxoindeno[5,4-b][1,4]oxazin-9-yl)ethyl]propionamide | yield 253.0 mg, 88% | O=C1NC2=C(OC1)C=CC=1CCC(C12)CCNC(CC)=O | C16H20N2O3
